US04267306
Preparation of 1,4-Bis[[[4-(hydroxymethyl)cyclohexyl]-methyl]amino]anthraquinone
A mixture of quinizarin (37.5 g) and lecuoquinizarin (12.5 g) was added portionwise over about one hour to trans-4-aminomethylcyclohexane methanol (200 g) at 125°-130° C. The temperature was held at 125°-130° C. for an additional two hours and then the reaction mixture was added with stirring to a 2% aqueous sodium hydroxide solution (800 ml). Air and steam were blown through the mixture for about one hour and then the dye was collected by filtration and washed with water. The moist cake was slurried in isopropanol (250 ml) at 55°-60° C. and the mixture was then filtered. The dye cake was washed with acetone and then dried in air. The yield was 78 g or about 77% of the theoretical yield.

reactant | quinizarin | 37.5 g | C=1C=CC2=C(C1)C(=O)C3=C(C=CC(=C3C2=O)O)O | C14H8O4
reactant | trans-4-aminomethylcyclohexane methanol | 200 g | NC[C@@H]1CC[C@H](CC1)CO | C8H17NO
reactant | sodium hydroxide | 800 ml | [OH-].[Na+]
product | 1,4-Bis[[[4-(hydroxymethyl)cyclohexyl]-methyl]amino]anthraquinone | OCC1CCC(CC1)CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCC1CCC(CC1)CO | C30H38N2O4
